US04348399
A sample of p-aminobenzonitrile is treated at 135° for 15 hours with equimolar quantities of 1-bromohexadecane and anhydrous potassium carbonate in hexamethylphosphoramide. Upon cooling the mixture is diluted with water and extracted with ether. Evaporation of the ether extracts and recrystallization of the residue yields p-(hexadecylamino)benzonitrile.

reactant | p-aminobenzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 1-bromohexadecane | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | p-(hexadecylamino)benzonitrile | C(CCCCCCCCCCCCCCC)NC1=CC=C(C#N)C=C1 | C23H38N2
